US08258160B2
Synthesis of 2-(1-(4-fluorophenethyl)-1H-1,2,3-triazol-4-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
Following the procedure as described in Example 4, making variations as necessary to replace 2-(1-benzyl-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxylic acid with 2-(1-(4-fluorophenethyl)-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxylic acid to react with pyridin-3-ylmethanamine, the title compound was obtained as a white solid in 53% yield: mp 149-150° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.50 (br s, 1H), 8.42 (br s, 1H), 7.84 (s, 1H), 7.70-7.62 (m, 1H), 7.27-7.16 (m, 1H), 7.12-6.99 (m, 3H), 6.95-6.85 (m, 2H), 4.56 (t, J=7.1 Hz, 2H), 4.55 (d, J=5.5 Hz, 2H), 3.16 (t, J=7.1 Hz, 2H), 2.63 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 162.0, 161.9, 157.9, 157.1, 149.2, 148.8, 142.4, 135.7, 133.9, 132.2, 132.1, 130.1, 124.1, 121.9, 115.8, 52.0, 41.5, 35.7, 17.3; MS (ES+) m/z 423.3 (M+1).

reactant | 2-(1-benzyl-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1N=NC(=C1)C=1SC(=C(N1)C)C(=O)O | C14H12N4O2S
reactant | 2-(1-(4-fluorophenethyl)-1H-1,2,3-triazol-4-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CCN2N=NC(=C2)C=2SC(=C(N2)C)C(=O)O)C=C1 | C15H13FN4O2S
reactant | pyridin-3-ylmethanamine | N1=CC(=CC=C1)CN | C6H8N2
product | 2-(1-(4-fluorophenethyl)-1H-1,2,3-triazol-4-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 53% yield | FC1=CC=C(CCN2N=NC(=C2)C=2SC(=C(N2)C)C(=O)NCC=2C=NC=CC2)C=C1 | C21H19FN6OS
